US06933312B2
1-Bromo-3-chloro-5-methoxybenzene
Sodium methoxide (4.5M solution in methanol, 2.20 ml, 10.0 mmol) was added dropwise to a stirred solution of 1-fluoro-3-chloro-5-bromobenzene (1.00 g, 4.77 mmol) in methanol (28 ml) at room temperature under a nitrogen atmosphere. The mixture was heated under reflux for 3 days and then cooled to room temperature. The mixture was evaporated under reduced pressure and the resulting yellow oil was dissolved in dichloromethane (30 ml). The dichloromethane solution was washed with water (2×20 ml) dried over magnesium sulphate, filtered and evaporated under reduced pressure. The residue was purified by chromatography on silica gel eluting with cyclohexane to provide the title compound as a colourless oil (302 mg).

reactant | Sodium methoxide | 10.0 mmol, 4.5M, 2.20 ml | C[O-].[Na+]
reactant | 1-fluoro-3-chloro-5-bromobenzene | 4.77 mmol, 1.00 g | FC1=CC(=CC(=C1)Br)Cl | C6H3BrClF
solvent | methanol | 28 ml | CO | CH4O
product | 1-Bromo-3-chloro-5-methoxybenzene | 302 mg | BrC1=CC(=CC(=C1)OC)Cl | C7H6BrClO
